US05484921
A solution of 94 g of 3-ethoxycarbonyl-6,7-difluoro-2-[N-methyl-N-(β-ethoxycarbonylethyl)amino]quinoline in 300 cm3 of absolute ethanol is added in the course of 80 minutes to a solution of 26.6 g of sodium ethylate brought to reflux in 900 cm3 of absolute ethanol. The suspension obtained, still refluxing, is stirred for a further 15 minutes. 38 cm3 of glacial acetic acid are then introduced in the course of 30 minutes. The reaction mixture is stirred for a further 15 minutes and, with the mixture still refluxing, 500 cm3 of water are then introduced in the course of 45 minutes. The suspension obtained is cooled to approximately 20° C. The precipitate is drained at approximately 20° C. and washed with twice 300 cm3 of water. The wet product is dried under reduced pressure (20 kPa) at approximately 60° C. 71.5 g of 3-ethoxy-carbonyl-7,8-difluoro-1-methyl-4-oxo-1,2,3,4-tetrahydrobenzo[b][1,8]naphthyridine are isolated in the form of a yellow solid, melting point 188° C.

reactant | 3-ethoxycarbonyl-6,7-difluoro-2-[N-methyl-N-(β-ethoxycarbonylethyl)amino]quinoline | 94 g | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1)F)F)N(CCC(=O)OCC)C | C18H20F2N2O4
reactant | sodium ethylate | 26.6 g | CC[O-].[Na+]
reactant | acetic acid | 38 cm3 | C(C)(=O)O | C2H4O2
reactant | water | 500 cm3 | O | H2O
solvent | ethanol | 300 cm3 | C(C)O | C2H6O
solvent | ethanol | 900 cm3 | C(C)O | C2H6O
product | 3-ethoxy-carbonyl-7,8-difluoro-1-methyl-4-oxo-1,2,3,4-tetrahydrobenzo[b][1,8]naphthyridine | 71.5 g | C(C)OC1C(C=2C=C3C(=NC2N(C1=C=O)C)C=C(C(=C3)F)F)=O | C16H12F2N2O3
